US07700589B2
7c) 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid-{1-(3,4-diethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl}-amide
336 mg (1.05 mmol) of TBTU, 161 mg (1.05 mmol) of HOBt, 0.75 mL of triethylamine and 192 mg (1.05 mmol) of 1-methyl-4-piperidin-4-yl-piperazine were added to a solution of 500 mg (1.05 mmol) of 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid in 100 mL of THF, and stirred for 4 h at RT and 2 h at 40° C. The solvent was removed in vacuo, the residue taken up in 40 mL of saturated NaHCO3 solution, exhaustively extracted with EtOAc and dried over MgSO4. After elimination of the desiccant and solvent the crude product was purified by chromatography (silica gel, MeOH/NH3 100:3).

reactant | TBTU | 1.05 mmol, 336 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | HOBt | 1.05 mmol, 161 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 1-methyl-4-piperidin-4-yl-piperazine | 1.05 mmol, 192 mg | CN1CCN(CC1)C1CCNCC1 | C10H21N3
reactant | 3-(3,4-diethyl-phenyl)-2-{[4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carbonyl]-amino}-propionic acid | 1.05 mmol, 500 mg | C(C)C=1C=C(C=CC1CC)CC(C(=O)O)NC(=O)N1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O | C27H34N4O4
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | triethylamine | 0.75 mL | C(C)N(CC)CC | C6H15N
product | 4-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-piperidine-1-carboxylic acid-{1-(3,4-diethyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl}-amide | C(C)C=1C=C(CC(C(=O)N2CCC(CC2)N2CCN(CC2)C)NC(=O)N2CCC(CC2)N2C(NC3=CC=CC=C3C2)=O)C=CC1CC | C37H53N7O3
